US05958942
i) Synthesis of 4,5-dihydro-4-(piperidin-4-ylmethyl)-3H-1,4,8b-triazaacenaphthylen-3-one dihydrochloride
To a solution prepared by dissolving 3.71 g (10.0 mM) of 4,5-dihydro-4-(1-tert-butoxycarbonylpiperidin-4-ylmethyl)-3H-1,4,8b-triazaacenaphthylen-3-one in 50 ml of ethanol was added 4.11 ml of 12N-hydrochloric acid at room temperature. This mixture was stirred at room temperature for 1 hour and the resulting precipitate was recovered by filtration. The precipitate was rinsed with a small amount of ether and dried in vacuo to provide 3.24 g (yield 94.2%) of the title compound as white powders.

reactant | 4,5-dihydro-4-(1-tert-butoxycarbonylpiperidin-4-ylmethyl)-3H-1,4,8b-triazaacenaphthylen-3-one | 10.0 mM, 3.71 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CN1C(C2=CN=C3C=CC=C(C1)N32)=O | C20H26N4O3
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4,5-dihydro-4-(piperidin-4-ylmethyl)-3H-1,4,8b-triazaacenaphthylen-3-one dihydrochloride | 3.24 g, yield 94.2% | Cl.Cl.N1CCC(CC1)CN1C(C2=CN=C3C=CC=C(C1)N32)=O | InChI=1S/C15H18N4O.2ClH/c20-15-13-8-17-14-3-1-2-12(19(13)14)10-18(15)9-11-4-6-16-7-5-11;;/h1-3,8,11,16H,4-7,9-10H2;2*1H
